US04490533
B. 6-Dimethylaminomethyl-2-methylaminopyridine
2-Chloro-6-dimethylaminomethylpyridine (6.8 g, 0.04 mol), methylamine (12.0 g, 0.32 mole) and ethanol (25 ml) are heated at 180°-200° C. for 36 hours in a sealed reaction vessel. The solvent is removed in vacuo and the residue is made basic with excess sodium hydroxide and extracted with ether. The ether extract is dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. This gives 5.8 g of amber oil. The oil is distilled at 90°-100° C. at 1.8 mm and is further purified by chromatography. This gives 2.7 g of 6-dimethylaminomethyl-2-methylaminopyridine as a colorless oil.

reactant | 2-Chloro-6-dimethylaminomethylpyridine | 0.04 mol, 6.8 g | ClC1=NC(=CC=C1)CN(C)C | C8H11ClN2
reactant | methylamine | 0.32 mole, 12.0 g | CN | CH5N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 6-Dimethylaminomethyl-2-methylaminopyridine | CN(C)CC1=CC=CC(=N1)NC | C9H15N3
